US06458781B1
Preparation of (S)-1-{4-[Bis-(4-fluoro-phenyl)-methyl]-piperazin-1-yl}-2-cyclohexylamino-4-methyl-pentan-1-one
A suspension of (S)-2-cyclohexylamino-4-methyl-pentanoic acid (0.556 g, 2.62 mmol) and 1-bis(4-fluorophenyl)methyl piperazine (0.378 g, 1.31 mmol) in dry DMF (7 mL) was treated with Triton® B (2.40 mL, 5.28 mmol, 40 weight percent solution in methanol), a clear solution was obtained. The resulting reaction solution was cooled to 0° C. in an ice-water bath. To this solution was added solid O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.993 g, 2.62 mmol). After stirring at 0° C. for 30 minutes, the cooling bath was removed, and the stirring was continued at ambient temperature for 30 minutes. After this period, the reaction mixture was mixed with 60 mL of diethyl ether and 60 mL of saturated aqueous NaHCO3 solution. White solid which forms was removed by filtration. The two layers of the filtrate were separated; the organic layer was successively washed with saturated aqueous NaHCO3 solution (50 mL), brine (2×50 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording a viscous oil. The crude product was purified by flash chromatography (30% EtOAc in hexanes) affording 0.48 g (76%) of the pure titled compound as a white foam: mp 45-54° C. APCI-MS m/z 484.4 (MH+).

reactant | (S)-2-cyclohexylamino-4-methyl-pentanoic acid | 2.62 mmol, 0.556 g | C1(CCCCC1)N[C@H](C(=O)O)CC(C)C | C12H23NO2
reactant | 1-bis(4-fluorophenyl)methyl piperazine | 1.31 mmol, 0.378 g | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.62 mmol, 0.993 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | (S)-1-{4-[Bis-(4-fluoro-phenyl)-methyl]-piperazin-1-yl}-2-cyclohexylamino-4-methyl-pentan-1-one | 0.48 g, 76% | FC1=CC=C(C=C1)C(N1CCN(CC1)C([C@H](CC(C)C)NC1CCCCC1)=O)C1=CC=C(C=C1)F | C29H39F2N3O
